Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Motor Vehicle Collision
L shoulder pain
Bilateral feet pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male previously health presented to the ED status 
post
___. He was restrained driver of a motor vehicle collision.  He
was seen at ___ (___) and transferred to ___ 
___ for
further care.  He was complaining of left shoulder pain and foot
pain.  He had imaging done at the outside hospital that was
notable for a left shoulder dislocation. 
 
Past Medical History:
Opioid use disorder
 
Social History:
___
Family History:
Mother and brother have had unspecified psychiatric issues
 
Physical Exam:
T 99.2 BP 113/63 HR 72 RR 18 O2Sat 98RA
General: NAD
HEENT: anicteric, MMM
CV: RRR, nl S1/S2, no m/r/g
Pulm: CTAB, no respiratory distress
Abd: soft, non-tender, non-distended, BS+
MSK:
Left upper extremity:
- Skin intact
- No deformity, erythema, induration or ecchymosis 
- Soft, non-tender arm and forearm
- Full, painless AROM/PROM of shoulder, elbow, wrist, and digits
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse
Right lower extremity:
- Skin intact
- No deformity, erythema,, induration or ecchymosis
- Soft, non-tender thigh and leg
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused
Left lower extremity:
- in short leg splint
- Soft, non-tender thigh and leg
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused
Neuro: AOx3, gross motor and sensory function intact
 
Pertinent Results:
___ 06:38AM BLOOD WBC-7.6 RBC-4.17* Hgb-13.4* Hct-36.5* 
MCV-88 MCH-32.1* MCHC-36.7 RDW-11.4 RDWSD-36.3 Plt ___
___ 04:00PM BLOOD WBC-17.0* RBC-4.37* Hgb-14.0 Hct-39.1* 
MCV-90 MCH-32.0 MCHC-35.8 RDW-11.5 RDWSD-37.0 Plt ___
___ 04:00PM BLOOD ___ PTT-20.2* ___
___ 06:38AM BLOOD Glucose-112* UreaN-18 Creat-0.8 Na-140 
K-4.2 Cl-103 HCO3-23 AnGap-14
___ 06:55AM BLOOD Glucose-107* UreaN-11 Creat-0.8 Na-144 
K-4.2 Cl-103 HCO3-24 AnGap-17
___ 06:38AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.2
___ 06:55AM BLOOD Calcium-9.3 Phos-4.6* Mg-2.2
___ 04:17PM BLOOD Glucose-114* Lactate-1.9 Na-135 K-3.4 
Cl-104 calHCO3-22
___ 04:17PM BLOOD Hgb-14.6 calcHCT-44 O2 Sat-77 COHgb-6* 
MetHgb-0

___ CXR: No acute intrathoracic process.  Medialization of 
the left humeral head reflects known anterior dislocation.
___ Hand/wrist xray: Normal exam.
___ Knee Xray: Fracture involving the medial process of the 
talus, left-sided.  Recommend dedicated views of the left ankle. 
 Soft tissue swelling noted along the lateral soft tissues of 
the lower leg and ankles bilaterally.
___ Ankle xray: Bilateral medial talus fractures.
___ Shoulder xray: No dislocation is seen. The left 
shoulder has been reduced and is in anatomic alignment.  The 
left acromioclavicular joint is intact.  There may be a 
___ deformity, although this is difficult to assess for, 
given images submitted, no true external rotation view.
 
Brief Hospital Course:
Mr. ___ presented to ___ Department from ___ after a 
motor vehicle collision. Upon workup, it was shown that his left 
shoulder was dislocated and bilateral medial talus fractures 
were noted on imaging. Patient was admitted to the Acute Care 
Surgery service while closely followed by the Orthopedic Surgery 
service. Orthopedics recommended no operation. Air cast boots 
were recommended. Left shoulder dislocation was reduced at 
bedside and placed in a sling. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV dilaudid. 
Given patient has opioid use disorder, he was placed on ___ 
protocol and clonidine were given to prevent deteriorating 
withdrawal symptoms. Pain medication was then transitioned to 
oral oxycodone once tolerating a diet. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The diet was advanced sequentially to a Regular diet, 
which was well tolerated. Patient's intake and output were 
closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

Misc: Physical Therapists and Occupational therapists worked 
with patient during his stay. Both ___ and OT recommended 
discharging patient to home with outpatient OT and ___. 
Prescriptions for outpatient OT and ___ were given to patient at 
the time of discharge. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
No prescribed medications
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild 
Stagger it with Tylenol  
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
5.  Senna 8.6 mg PO BID:PRN constipation  
6.Outpatient Occupational Therapy
Left talus fracture
Anterior dislocation of left shoulder 
7.Outpatient Physical Therapy
Left talus fracture
Anterior dislocation of left shoulder 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral talus fracture
Anterior dislocation of left shoulder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
a motor vehicle collision and found to have bilateral talus 
fractures, and an anterior dislocation of left shoulder, which 
is now back in place. You are recovering well and are now ready 
for discharge. Please follow the instructions below to continue 
your recovery:
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

Activity: non-weight bearing on the left upper extremity, in a
sling for comfort, pendulums OK to avoid shoulder stiffness.
Weight bearing as tolerated on the bilateral lower extremities.
You should be in either short leg splints or aircast boots on 
the
lower extremity. You may remain in his splint on left and 
aircast
boot on right if easier for you to ambulate. 

-Please follow up with your Orthopaedic Surgeon, Dr. ___. 
You
will have follow up with ___, NP in the 
Orthopaedic
Trauma Clinic 14 days post-operation for evaluation. Call
___ to schedule appointment upon discharge.

-Please follow up with your primary care physician, specifically 
for a referral for neurology to work up the seizure you have 
been experiencing at home, and also pain medicine and psychiatry 
for pain management.

Please feel free to contact the orthopedic surgery clinic with 
any questions.

Your ___ Team
 
Followup Instructions:
___